US07081534B2
Synthesis of 2-chloromethyl-3-methoxy-4-chloro-pyridine (II)
A 1000 ml round-bottom flask is loaded with 67 g (0.319 mol) of 2-hydroxymethyl-3-methoxy-4-chloro-pyridine hydrochloride and 469 ml of toluene. 73 g (0.606 mol) of thionyl chloride are then dropped therein, under stirring and at inner temperature of about 15–25° C. After completion of the addition, the mixture is washed with 35 ml of toluene, keeping the suspension at this temperature for at least 1 hour. After completion of the reaction, approx. 200 ml of solvent are distilled off under vacuum. The suspension, containing 2-chloromethyl-3-methoxy-4-chloro-pyridine, is then subjected to the subsequent step.

reactant | 2-hydroxymethyl-3-methoxy-4-chloro-pyridine hydrochloride | 0.319 mol, 67 g | Cl.OCC1=NC=CC(=C1OC)Cl
reactant | thionyl chloride | 0.606 mol, 73 g | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 469 ml | C1(=CC=CC=C1)C | C7H8
product | 2-chloromethyl-3-methoxy-4-chloro-pyridine | ClCC1=NC=CC(=C1OC)Cl | C7H7Cl2NO
